US07910740B2
A solution of 2.0 g (11.5 mmol) 2-chloro-5-nitrophenol in 15 ml of acetonitrile was treated with 11.26 g (34.6 mmol) cesium carbonate and 2.06 g (12.1 mmol) 2-iodopropane and heated overnight at reflux temperature. 993 mg (12.1 mmol) of 4-methylimidazole was added and the mixture refluxed again overnight. After evaporation of the solvent, water was added and the crude material extracted with ethyl acetate. The product was purified on silica gel with ethyl acetate to give 337 mg (11%) of 1-(2-isopropoxy-4-nitro-phenyl)-4-methyl-1H-imidazole as a slightly brownish solid. MS ISP (m/e): 262.0 (100) (M+H)+. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.95-7.85 (m, 3H), 7.40 (d, 1H), 6.99 (s, 1H), 4.73 (sept, 1H), 2.31 (s, 3H), 1.40 (d, 6H).

reactant | 2-chloro-5-nitrophenol | 11.5 mmol, 2.0 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | cesium carbonate | 34.6 mmol, 11.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodopropane | 12.1 mmol, 2.06 g | IC(C)C | C3H7I
reactant | 4-methylimidazole | 12.1 mmol, 993 mg | CC=1N=CNC1 | C4H6N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-(2-isopropoxy-4-nitro-phenyl)-4-methyl-1H-imidazole | 337 mg, 11% | C(C)(C)OC1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)C | C13H15N3O3
